US04362738
1-{2-[(2,6-Dichlorophenyl)-amino]-phenylacetyl}-6-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyl]-D-mannitol
This compound was prepared from 1-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyl]-D-mannitol and 2-[(2,6-dichlorophenyl)-amino]-phenyl-acetic acid analogous to Example 4. Amorphous powder.

reactant | 1-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyl]-D-mannitol | NC1=C(C=C(C(=O)C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O)C=C1CN(CC)C1CCCCC1)Br | C22H35BrN2O7
reactant | 2-[(2,6-dichlorophenyl)-amino]-phenyl-acetic acid | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)O | C14H11Cl2NO2
product | 1-{2-[(2,6-Dichlorophenyl)-amino]-phenylacetyl}-6-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzoyl]-D-mannitol | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)C(O)C(C1=CC(=C(C(=C1)CN(CC)C1CCCCC1)N)Br)=O)O | C36H44BrCl2N3O8
